US05576335
A mixture of 2-amino-3-nitropyridine (1.39 g), heptyl isocyanate (1.41 g) and 4-dimethylaminopyridine (0.37 g) was stirred in toluene (5 ml) at 100°-110° C. for 5 hrs. The solvent was distilled off and the residue was purified by a silica gel column chromatography (hexane:ethyl acetate=2:1) to give 1-(3-nitro-2-pyridyl)-3-heptylurea (1.03 g, 37%) as crystals.

reactant | 2-amino-3-nitropyridine | 1.39 g | NC1=NC=CC=C1[N+](=O)[O-] | C5H5N3O2
reactant | heptyl isocyanate | 1.41 g | C(CCCCCC)N=C=O | C8H15NO
catalyst | 4-dimethylaminopyridine | 0.37 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(3-nitro-2-pyridyl)-3-heptylurea | 1.03 g, 37% | [N+](=O)([O-])C=1C(=NC=CC1)NC(=O)NCCCCCCC | C13H20N4O3
